US04055595
A solution of 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionyl chloride (3.10 g.) in tetrahydrofuran (10 ml.) is added dropwise at 0° C. to a stirred mixture of 4-hydroxy-N,N-dimethylbutyramide (885 mg.), triethylamine (773 mg.) and tetrahydrofuran (15 ml.). The mixture is kept at room temperature for 4 hours with stirring, and for 2 days without stirring, then filtered. The filtrate is evaporated, and the residue dissolved in ether. The solution is washed with water, 0.4 N-aqueous sodium hydroxide, N-hydrochloric acid and water again, dried and evaporated to a syrup (3.3 g.). The syrup is dissolved in toluene (10 ml.) and applied to a column of silica gel (90 g.). The column is washed with toluene (700 ml.), and then eluted with ether (900 ml.). The ether is evaporated, and the residue is recrystallised from ether-light petroleum (b.p. 40°-60° C.) to give 3-dimethylcarbamoylpropyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethyl-propionate (2.1 g.), m.p. 54°-55° C.

reactant | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionyl chloride | 3.10 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)Cl)(C(F)(F)F)C(F)(F)F)C=C1 | C17H10Cl2F6O2
reactant | 4-hydroxy-N,N-dimethylbutyramide | 885 mg | OCCCC(=O)N(C)C | C6H13NO2
reactant | triethylamine | 773 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-dimethylcarbamoylpropyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethyl-propionate | 2.1 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCCCC(N(C)C)=O)(C(F)(F)F)C(F)(F)F)C=C1 | C23H22ClF6NO4
